US04378319
Preparation of para-hydroxybenzyl cyanide
A mixture of 4.96 g. para-hydroxybenzyl alcohol 2.4 g. sodium cyanide 12 ml. ethanol and 12 ml. ethyl formate is heated with stirring under reflux for a period of ninety minutes. The reaction product is then subjected to the same isolation process as in Example 1 to give a 94% yield of crude product showing a melting point of 58°-61° C. uncorrected.

reactant | para-hydroxybenzyl alcohol | 2.4 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | sodium cyanide | 12 ml | [C-]#N.[Na+]
reactant | ethyl formate | C(=O)OCC | C3H6O2
solvent | ethanol | C(C)O | C2H6O
product | para-hydroxybenzyl cyanide | 94% yield | OC1=CC=C(CC#N)C=C1 | C8H7NO
